US07776857B2
Step 4: 4-((7-Methoxyquinolin-4-yl)methyl)benzenamine
A mixture of (7-methoxyquinolin-4-yl)(4-nitrophenyl)methanol (0.187 g, 0.603 mmol) and tin(II) chloride dihydrate (0.823 g, 3.62 mmol) in MeOH (10 mL) was heated to 60° C. After 1 hr, an additional 5 eq of tin(II) chloride dihydrate was added. After 3 hrs, the mixture was concentrated in vacuo and diluted with EtOAc and water. Saturated NaHCO3 was added until the aqueous layer was basic. The resulting suspension was filtered and the solids washed with EtOAc. The organic fraction was washed with water and brine. After drying with Na2SO4 and concentrating in vacuo, the crude yellow solid, 4-((7-methoxyquinolin-4-yl)methyl)benzenamine was advanced without further purification. MH+=265.1@0.99 min.

reactant | (7-methoxyquinolin-4-yl)(4-nitrophenyl)methanol | 0.603 mmol, 0.187 g | COC1=CC=C2C(=CC=NC2=C1)C(O)C1=CC=C(C=C1)[N+](=O)[O-] | C17H14N2O4
reactant | tin(II) chloride dihydrate | 3.62 mmol, 0.823 g | O.O.[Sn](Cl)Cl
reactant | tin(II) chloride dihydrate | 5 eq | O.O.[Sn](Cl)Cl
solvent | MeOH | 10 mL | CO | CH4O
product | 4-((7-Methoxyquinolin-4-yl)methyl)benzenamine | COC1=CC=C2C(=CC=NC2=C1)CC1=CC=C(C=C1)N | C17H16N2O
